US05925630
3β-Ethynyl-3α-hydroxy-21-hydroxypropylsufonyl-5β-pregnan-20-one
Similarly prepared was 3α-hydroxy-21-(3'-hydroxypropylsulfonyl)-2β-propoxy-5α-pregnan-20-one; TLC Rf (hexane:acetone 2:1)=0.26.

reactant | 3α-hydroxy-21-(3'-hydroxypropylsulfonyl)-2β-propoxy-5α-pregnan-20-one | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CS(=O)(=O)CCCO)=O)[C@]4(CC[C@@H]3[C@]2(C[C@@H]1OCCC)C)C | C27H46O6S
reactant | hexane acetone | CCCCCC.CC(=O)C
product | 3β-Ethynyl-3α-hydroxy-21-hydroxypropylsufonyl-5β-pregnan-20-one | C(#C)[C@@]1(C[C@H]2CC[C@H]3[C@@H]4CC[C@H](C(CS(=O)(=O)CCCO)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C26H40O5S
